US07781478B2
1-Ethyl-6-methoxy-2-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-1H-indole-3-carbonitrile (20 mg, 0.058 mmol), prepared as in example 1BH, is combined with NaH (14 mg, 60% suspension in oil, 0.35 mmol). THF (300 μL) is added. This is stirred at room temperature for 5 minutes. A solution of methyl iodide (4.4 μL) in THF (100 μL) is added. This is stirred at room temperature for 1 hour. The reaction mixture is partitioned between EtOAc and aqueous HCl. The organic layer is dried and concentrated. Purification by silica gel chromatography (9/1, CH2Cl2/EtOAc) yields 1-ethyl-6-methoxy-2-(4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-1H-indole-3-carbonitrile (16 mg, 76%) as a white solid.

reactant | 1-Ethyl-6-methoxy-2-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-1H-indole-3-carbonitrile | 0.058 mmol, 20 mg | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C=1C=CC2=C(NC(CO2)=O)C1 | C20H17N3O3
reactant | NaH | 0.35 mmol, 14 mg | [H-].[Na+]
reactant | methyl iodide | 4.4 μL | CI | CH3I
solvent | THF | 100 μL | C1CCOC1 | C4H8O
solvent | THF | 300 μL | C1CCOC1 | C4H8O
product | 1-ethyl-6-methoxy-2-(4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-1H-indole-3-carbonitrile | 16 mg, 76% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C=1C=CC2=C(N(C(CO2)=O)C)C1 | C21H19N3O3
